US04902695
F. Preparation of ethyl decahydro-6-(diethylphosphonomethylene)-2-t-butoxycarbonyl-1-isoquinoline carboxylate
Following the preparation of Example 3A above, 2.0 g of ethyl decahydro-6-oxo-2-t-butoxycarbonyl-1-isoquinoline carboxylate were treated with 2.6 g of methylene diphosphonic acid tetraethyl ester to provide 2.57 g of the desired subtitled intermediate.

reactant | ethyl decahydro-6-oxo-2-t-butoxycarbonyl-1-isoquinoline carboxylate | 2.0 g | O=C1CC2CCN(C(C2CC1)C(=O)OCC)C(=O)OC(C)(C)C | C17H27NO5
reactant | methylene diphosphonic acid tetraethyl ester | 2.6 g | C(C)OP(OCC)(=O)CP(OCC)(OCC)=O | C9H22O6P2
product | ethyl decahydro-6-(diethylphosphonomethylene)-2-t-butoxycarbonyl-1-isoquinoline carboxylate | 2.57 g | C(C)OP(=O)(OCC)C=C1CC2CCN(C(C2CC1)C(=O)OCC)C(=O)OC(C)(C)C | C22H38NO7P
